US04900737
4-Methyltetrahydroisoquinoline-3-carboxylic acid
β-Methyl(dl)phenylalanine hydrochloride (4 g), concentrated hydrochloric acid (20 ml) and formaldehyde (6 ml) were heated with stirring in an oil bath at 100° for 3.5 h and then evaporated to dryness to give a white froth which was dissolved in water (20 ml) and the pH adjusted to 4 with 5M NaOH, under nitrogen. The reaction mixture was stored at 5° for 60 h after which a precipitated white solid was recovered by filtration, washed with a small quantity of water and dried to yield the title compound (1.965 g) m.p. >260° (decomp).

reactant | β-Methyl(dl)phenylalanine hydrochloride | 4 g | Cl.CC(C(N)C(=O)O)C1=CC=CC=C1
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | formaldehyde | 6 ml | C=O | CH2O
reactant | NaOH | 5M | [OH-].[Na+]
solvent | water | 20 ml | O | H2O
product | 4-Methyltetrahydroisoquinoline-3-carboxylic acid | 1.965 g | CC1C(NCC2=CC=CC=C12)C(=O)O | C11H13NO2
